US05565464
6-Butyl-5-[(2'-methoxycarbonylbiphenyl-4-yl)methyl]-2-phenylaminocarbonylaminopyrimidin-4-one
0.27 g of phenylisocyanate were added to a solution containing 0.3 g of 2-amino-6-butyl-5-[(2'-methoxycarbonylbiphenyl-4-yl) -methyl]pyrimidin-4-one in ml of dry DMF at 0° C. After stirring at room temperature for 30 minutes the mixture was evaporated to dryness and the residue was crystallized from DMF; 0.22 g of a white solid was obtained (yield 56%, m.p. 217°-219° C.).

reactant | phenylisocyanate | 0.27 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2-amino-6-butyl-5-[(2'-methoxycarbonylbiphenyl-4-yl) -methyl]pyrimidin-4-one | 0.3 g | NC1=NC(=C(C(N1)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC)CCCC | C23H25N3O3
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Butyl-5-[(2'-methoxycarbonylbiphenyl-4-yl)methyl]-2-phenylaminocarbonylaminopyrimidin-4-one | 0.22 g, yield 56% | C(CCC)C1=C(C(NC(=N1)NC(=O)NC1=CC=CC=C1)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C30H30N4O4
